US08980913B2
Step 2: 2-(1,3-Dioxolan-2-yl)-N-(3-methoxybenzyl)ethanamine
To a stirred solution of tert-butyl (3,3-diethoxypropyl)carbamate (1.0 g, 4.05 mmol) in DMF (15 mL) was added sodium hydride (0.25 g, 6.25 mmol). The reaction mixture was stirred at room temperature for 30 minutes and 3-methoxybenzyl bromide (0.875 mL, 6.25 mmol) added. The reaction mixture was stirred at room temperature for 72 hours. The reaction mixture was diluted with ethyl acetate and washed with water and twice with brine. The organic phase was dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure. The residue was dissolved in ethanol (10 mL) and 4M hydrogen chloride in dioxane (10 mL) added. The reaction mixture was stirred at room temperature for 2 hours and the solvent evaporated at reduced pressure. The residue was loaded onto an SCX-2 cartridge and eluted with ethanol (4 column volumes) and then 10% triethylamine/ethanol (4 column volumes). The product containing fractions were combined and the solvent evaporated at reduced pressure to afford the title compound (0.543 g, 50%).

reactant | tert-butyl (3,3-diethoxypropyl)carbamate | 4.05 mmol, 1.0 g | C(C)OC(CCNC(OC(C)(C)C)=O)OCC | C12H25NO4
reactant | sodium hydride | 6.25 mmol, 0.25 g | [H-].[Na+]
reactant | 3-methoxybenzyl bromide | 6.25 mmol, 0.875 mL | COC=1C=C(CBr)C=CC1 | C8H9BrO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1,3-Dioxolan-2-yl)-N-(3-methoxybenzyl)ethanamine | 0.543 g, 50% | O1C(OCC1)CCNCC1=CC(=CC=C1)OC | C13H19NO3
